US07855298B2
Preparation 19: 3-{(1S,5R)-1-[4-(Trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}-1-butanol
To a suspension of (1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hexane (Preparation 18, 100 mg) in tetrahydrofuran (1.1 mL), 4-hydroxy-2-butanone (0.66 mmol), acetic acid (0.66 mmol) and NaBH(OAc)3 (0.88 mmol) were added. The mixture was stirred at room temperature for 2 h. After addition of NaOH (1M), the solvent was eliminated under vacuo, the residue was dissolved in ethyl acetate and the organic layer was washed with H2O and dried over Na2SO4. This solution was concentrated in vacuo to give 130 mg of the title compound which was used without further purification.

reactant | (1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hexane | 100 mg | FC(C1=CC=C(C=C1)[C@]12CNC[C@@H]2C1)(F)F | C12H12F3N
reactant | 4-hydroxy-2-butanone | 0.66 mmol | OCCC(C)=O | C4H8O2
reactant | acetic acid | 0.66 mmol | C(C)(=O)O | C2H4O2
reactant | NaBH(OAc)3 | 0.88 mmol | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaOH | 1M | [OH-].[Na+]
solvent | tetrahydrofuran | 1.1 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-{(1S,5R)-1-[4-(Trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}-1-butanol | 130 mg | FC(C1=CC=C(C=C1)[C@]12CN(C[C@@H]2C1)C(CCO)C)(F)F | C16H20F3NO
